### PR TITLE
Add Erdős Problem 842 (Fleischner–Stiebitz 3-colouring), link the formal proof

### LINKED ISSUE #6376: Erdős Problem 842
### What is the Erdős problem?

https://www.erdosproblems.com/842

Let $G$ be a graph on $3n$ vertices formed by taking $n$ vertex disjoint triangles and adding a Hamiltonian cycle (with all new edges) between these vertices. Does $G$ have chromatic number at most $3$?

Status: proved (Fleischner–Stiebitz [FlSt92]). A formal proof exists in plby/lean-proofs (`Erdos842.erdos_842`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6376.

### What changed
Adds `FormalConjectures/ErdosProblems/842.lean` with `IsTrianglesPlusHamiltonianCycle G n` (`G = T ⊔ C` with `T` a perfect triangle factor, `C` a Hamiltonian cycle transported from `cycleGraph (3n)`, and `T`, `C` edge-disjoint):
- `erdos_842` (`research solved`, `answer(True)`): such graphs are 3-colourable (Fleischner–Stiebitz [FlSt92]). Linked to plby/lean-proofs `Erdos842.erdos_842` (Codex and GPT-5.6 Sol; 16 Mathlib-only files, via the Alon–Tarsi / Combinatorial Nullstellensatz approach).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos842.erdos_842` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms:

<details>
<summary>Bridge</summary>

```lean
open SimpleGraph

namespace Bridge842

lemma isCyclePlusTriangles_of {V : Type} {G : SimpleGraph V} {n : ℕ}
    (h : Erdos842.IsTrianglesPlusHamiltonianCycle G n) : Erdos842Plby.IsCyclePlusTriangles G n := by
  obtain ⟨T, C, rfl, hdisj, ⟨e, he⟩, ⟨f, rfl⟩⟩ := h
  have hT : T = Erdos842Plby.triangleFactor n e := by
    ext u v
    rw [Erdos842Plby.triangleFactor_adj, he]
  refine ⟨f, e, ?_, ?_⟩
  · rw [← hT]
    exact hdisj.symm
  · rw [← hT, sup_comm]
    rfl

theorem erdos_842_bridge : type_of% Erdos842.erdos_842 := by
  show True ↔ _
  simp only [true_iff]
  intro V G n h
  exact Erdos842Plby.erdos_842 G (isCyclePlusTriangles_of h)

#print axioms Erdos842Plby.erdos_842
#print axioms erdos_842_bridge

end Bridge842
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«842»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/842.lean [hunk 1]
```diff
@@ -0,0 +1,58 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/842.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
